US04064106
Methyl bromide was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain methyl dicyclohexylphosphinodithioate, m.p. 75°-75.5° C, which on testing lasted 1500 hours* longer than the control. The average total number of hours required to each failure was 3.4 times that of the control.

reactant | Methyl bromide | CBr | CH3Br
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | methyl dicyclohexylphosphinodithioate | C1(CCCCC1)P(=S)(SC)C1CCCCC1 | C13H25PS2
